US04191683
20 g of 2,6-diethyl-2,3,6-trimethyl-4-benzamidopiperidine (compound no. 9), 12.5 g of benzylbromide, 1 g of potassium iodide and 20 g of potassium carbonate are stirred in 200 ml of tetrahydrothiophene dioxide (sulpholane) at 110° C. for 4 days. Thereafter the reaction mixture is diluted with 200 ml of toluene, cooled to room temperature and purified by filtration. The filtrate is washed four times with about 200 ml of water, the toluene phase is dried over sodium sulfate and evaporated under vacuum. Crystallization of the residue from acetic acid ethyl ester yields 1-benzyl-2,6-diethyl-2,3,6-trimethyl-4-benzamidopiperidine (compound no. 48); m.p. 234°-236° C.

reactant | 2,6-diethyl-2,3,6-trimethyl-4-benzamidopiperidine | 20 g | C(C)C1(NC(CC(C1C)NC(C1=CC=CC=C1)=O)(C)CC)C | C19H30N2O
reactant | benzylbromide | 12.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrothiophene dioxide | 200 ml | S1(CCCC1)(=O)=O | C4H8O2S
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-2,6-diethyl-2,3,6-trimethyl-4-benzamidopiperidine | C(C1=CC=CC=C1)N1C(C(C(CC1(C)CC)NC(C1=CC=CC=C1)=O)C)(C)CC | C26H36N2O
